Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
penicillin
 
Attending: ___.
 
Chief Complaint:
Shortness of breath 
 
Major Surgical or Invasive Procedure:
TAVR ___

 
History of Present Illness:
Mr. ___ is a ___ year old with a past medical history of
cryptogenic cirrhosis and non-occlusive portal vein thrombosis
complicated by clinically significant portal hypertension with
prior esophageal variceal hemorrhage requiring banding with
gastric varices, COPD, diabetes, PVD, and aortic stenosis. He is
undergoing a liver workup and needs a liver transplant.  Prior 
to
the liver transplant, he needs clot removal from portal vein. 
Before both of these surgeries he requires aortic valve
replacement. 

 
Past Medical History:
 Cirrosis  cryptogenic c/b PVT
 Esophageal Varices  s/p banding
 iron deficiency anemia
 DM2
hypertension
 gout
 umbilical hernia
 Aortic stenosis 
 1 functional kidney
 
Social History:
___
Family History:
No known family history of cirrosis, GI issues. Father had CAD 
and died of MI. Mother had macular degeneration.  
 
Physical Exam:
Admission PE:
General: Lying flat in bed, drowsy but wakes easy to voice, NAD.
Neuro: Alert and oriented x4. Pleasant and cooperative. PERRLA
@3mm. Speech clear, appropriate and comprehensible. Tongue
midline, smile symmetric. Equal and strong hand grasps and foot
pushes. 
HEENT: Neck supple, No JVD noted
CV: RRR, Normal S1 S2, no murmur appreciated 
Lungs: Clear ___, posterior and anteriorly, non-labored. No use 
of
accessory muscles noted.
GI/Abdomen: soft, non-tender, + BS x4
GU: voiding clear, yellow, urine with external catheter 
PV: WWP, + pedal pulses, No edema, +1 edema, Palpable Pedal
pulses ___. 
Access sites: Right and left femoral access sites without
bleeding or hematoma. +2 radial pulse. CSM WNL. 

Discharge Physical Examination
VS: Temp: 98.9, BP: 111/62 (106-118/57-68), HR: 76 (67-78), RR:
17 (___), O2 sat: 96% (95-100), O2 delivery: Ra  
FSBG: 117 
General: Alert, no acute distress 
Neuro: Oriented, pleasant and cooperative. Speech clear,
appropriate and comprehensible.  
HEENT: Neck supple, No JVD noted
CV: Regular rate/rhythm  
Lungs: Clear bilaterally, breathing is non-labored.
GI/Abdomen: soft, non-tender, + BS
PV: Warm with palpable bilateral ___ pulses, +1 edema 
Access sites: Right and left femoral access sites without
bleeding or hematoma, soft to palpation. Slight ecchymosis
surrounding groin incisions bilaterally. 

 
Pertinent Results:
TTE ___: 
The left atrial volume index is mildly increased. There is 
moderate symmetric left ventricular hypertrophy with a normal 
cavity size. There is normal regional and global left 
ventricular systolic function. Quantitative
biplane left ventricular ejection fraction is 64 %. Left 
ventricular cardiac index is normal (>2.5 L/min/m2). There is no 
resting left ventricular outflow tract gradient. Normal right 
ventricular cavity size with normal free wall motion. The aortic 
sinus is mildly dilated with moderately dilated ascending aorta. 
The aortic arch is mildly dilated with a mildly dilated 
descending aorta. A ___ 3 aortic valve bioprosthesis is 
present. HIGH gradient. There is a paravalvular jet of mild [1+] 
aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is 
trivial mitral regurgitation. The pulmonic valve leaflets are 
not well seen. The tricuspid valve leaflets appear structurally 
normal. There is physiologic tricuspid regurgitation. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/global biventricular systolic 
function. Well seated, normal functioning ___ 3 TAVR with 
mildly elevated gradient and mild paravalvular aortic 
regurgitation. Thoracic aortic dilation.

___ 11:58AM BLOOD WBC-2.1* RBC-3.37* Hgb-11.3* Hct-33.5* 
MCV-99* MCH-33.5* MCHC-33.7 RDW-14.6 RDWSD-53.3* Plt Ct-41*
___ 05:32AM BLOOD WBC-2.6* RBC-3.10* Hgb-10.4* Hct-31.3* 
MCV-101* MCH-33.5* MCHC-33.2 RDW-14.6 RDWSD-53.8* Plt Ct-36*
___ 05:53AM BLOOD WBC-2.4* RBC-3.24* Hgb-10.8* Hct-32.5* 
MCV-100* MCH-33.3* MCHC-33.2 RDW-14.3 RDWSD-52.7* Plt Ct-32*

___ 11:58AM BLOOD ___ PTT-61.6* ___
___ 05:32AM BLOOD ___
___ 05:53AM BLOOD ___ PTT-34.2 ___

___ 11:58AM BLOOD Glucose-100 UreaN-27* Creat-1.4* Na-137 
K-4.0 Cl-108 HCO3-20* AnGap-9* Calcium-8.5 Phos-3.4 Mg-1.7
___ 05:32AM BLOOD Glucose-114* UreaN-28* Creat-1.4* Na-133* 
K-4.7 Cl-104 HCO3-21* AnGap-8* Mg-1.7
___ 05:53AM BLOOD Glucose-117* UreaN-26* Creat-1.3* Na-136 
K-4.3 Cl-105 HCO3-22 AnGap-9* Mg-1.9
 
Brief Hospital Course:
 Mr. ___ is a ___ year old with history of
cryptogenic cirrhosis and non-occlusive portal vein thrombosis
complicated by clinically significant portal hypertension with
prior esophageal variceal hemorrhage requiring banding with
gastric varices, COPD, diabetes, PVD, and in process of work-up
for liver transplant who is now s/p TAVR.

 # Aortic Stenosis: now s/p TAVR 29 ___ 3 valve, Right 
femoral
closed with manta device, L femoral angioseal, groin sites
benign. Did have transient QRS prolongation, improved in PACU, 
no
e/o high grade conduction delay. Low BP in procedure requiring
neo, weaned off and remained hemodynamically stable throughout
remainder of admission. 
Post TAVR AV peak/mean gradients ___. ___ 2.2cm2.  
 - TTE showing well seated valve. Gradients as above
 - Anticoagulation Plan: 325mg ASA daily - No Plavix given liver
hx, thrombocytopenia 
 - SBE prophylaxis instructions prior to discharge
 - Follow-up with structural heart team in one month with same
day TTE
  
 #  Cirrhosis/ Portal HTN: Awaiting liver transplant, follows
with Dr. ___.
 - Continue home medication regimen with furosemide, midodrine,
spironolactone. 

 #  DM: Home Glargine was discontinued on last admission due to
outpatient A1c of 5.1%.

 #  GOUT:
 - Continue Allopurinol per home regimen

 # GERD:
 - Continue Pantoprazole
 
 Dispo: Home with outpatient follow up 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 20 mg PO DAILY 
2. Midodrine 5 mg PO DAILY 
3. Spironolactone 100 mg PO DAILY 
4. Allopurinol ___ mg PO DAILY 
5. Ferrous GLUCONATE 324 mg PO DAILY 
6. Pantoprazole 40 mg PO Q24H 
7. OxyCODONE (Immediate Release) 5 mg PO BID: PRN Pain - 
Moderate 
8. Lactulose 30 mL PO DAILY 
9. rifAXIMin 550 mg PO BID 

 
Discharge Medications:
1.  Aspirin 325 mg PO DAILY 
You can buy this medication over the counter   
2.  Allopurinol ___ mg PO DAILY  
3.  Ferrous GLUCONATE 324 mg PO DAILY  
4.  Furosemide 20 mg PO DAILY  
5.  Lactulose 30 mL PO DAILY  
6.  Midodrine 5 mg PO DAILY  
7.  OxyCODONE (Immediate Release) 5 mg PO BID: PRN Pain - 
Moderate  
8.  Pantoprazole 40 mg PO Q24H  
9.  rifAXIMin 550 mg PO BID  
10.  Spironolactone 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Aortic Stenosis 
Cirrhosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 You were admitted for a trans catheter aortic valve replacement 
(TAVR) to treat your aortic valve stenosis which was done on 
___. 

 It is very important to take all of your heart healthy 
medications. In particular, you are now taking 325mg aspirin 
daily. This medication helps to prevent blood clots from forming 
on the new valve. If you stop this medication or miss ___ dose, 
you risk causing a blood clot forming on your new valve. This 
could cause it to malfunction and it may be life threatening. 
Please do not stop taking aspirin without taking to your heart 
doctor. 

 You will need prophylactic antibiotics prior to any dental 
procedure. Please inform your dentist about your cardiac 
procedure, and obtain a prescription from your doctor before any 
procedure. 

 Please weigh yourself every day in the morning after you go to 
the bathroom and before you get dressed. If your weight goes up 
by more than 3 lbs in 1 day or more than 5 lbs in 3 days, please 
call your heart doctor or your primary care doctor and alert 
them to this change. 

 You will also need to have close follow up with your primary 
care doctor, please see below for appointment details. If you 
have urgent questions that are related to your recovery from 
your procedure or are experiencing any symptoms that are 
concerning to you and you think you may need to return to the 
hospital, please call the ___ HeartLine at ___ to 
speak to a cardiologist or cardiac nurse practitioner. 

 It has been a pleasure to have participated in your care and we 
wish you the best with your health.  

 
Followup Instructions:
___